US06090802
To a solution of (3S)-1-(tert-butoxycarbonyl)-3-(aminoacetylamino)pyrrolidine (2.50 g) in water (35 ml), sodium carbonate (1.31 g) and formamidinesulfonic acid (1.53 g) were added under ice cooling and the mixture was stirred overnight at room temperature. To the reaction mixture, tetrahydrofuran (30 ml) was added. To the resulting mixture, a solution of p-nitrobenzyl chloroformate (4.43 g) in tetrahydrofuran (20 ml) and a 1N aqueous sodium hydroxide solution (21 ml) were simultaneously added dropwise, followed by stirring at the same temperature for one hour. To the reaction mixture, ethyl acetate was added. The resulting mixture was washed with water and saturated saline, dried over anhydrous magnesium sulfate and then concentrated by evaporation under reduced pressure, whereby (3S)-1-(tert-butoxycarbonyl)-3-[di(4-nitrobenzyloxycarbonyl)guanidinoacetylamino]pyrrolidine was obtained. The product was provided for the subsequent step.

reactant | (3S)-1-(tert-butoxycarbonyl)-3-(aminoacetylamino)pyrrolidine | 2.50 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC(CN)=O | C11H21N3O3
reactant | sodium carbonate | 1.31 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | formamidinesulfonic acid | 1.53 g | C(=N)(N)S(=O)(=O)O | CH4N2O3S
reactant | p-nitrobenzyl chloroformate | 4.43 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | sodium hydroxide | 1N, 21 ml | [OH-].[Na+]
solvent | water | 35 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S)-1-(tert-butoxycarbonyl)-3-[di(4-nitrobenzyloxycarbonyl)guanidinoacetylamino]pyrrolidine | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC(C(NC(=N)N)(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C28H33N7O11
